US09029545B2
3-Chloro-N-{6-methyl-2-(1H-pyrazol-4-yl)-3-[3-(1-pyrrolidinyl)phenyl]thieno[2,3-b]pyridin-4-yl}benzenesulfonamide
1,1-Dimethylethyl 4-(3-bromo-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methylthieno[2,3-b]pyridin-2-yl)-1H-pyrazole-1-carboxylate (Description 75) (350 mg, 0.599 mmol), 1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrrolidine (327 mg, 1.2 mmol), tetrakis(triphenylphosphine)palladium(0) (34.6 mg, 0.03 mmol), bis(triphenylphosphine)palladium(II) chloride (21.04 mg, 0.030 mmol) and potassium carbonate (249 mg, 1.8 mmol) were charged into a microwave vial. DMF (2.5 mL) and water (1.0 mL) were added and the suspension degassed under nitrogen for ca. 5 min before being subjected to heating in a microwave at 100° C. for 30 min. The reaction mixture was then filtered through celite, rinsed with ethyl acetate (ca. 50 mL) and the solvent removed in vacuo. Purification by chromatography on silica, eluting with a gradient of 0-40% ethyl acetate in DCM followed by 0-20% MeOH in DCM and then further purification by MDAP (acidic conditions) afforded the title compound (20 mg). LCMS (A) m/z: 550 [M+1]+, Rt 1.30 min (basic).

reactant | 1,1-Dimethylethyl 4-(3-bromo-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methylthieno[2,3-b]pyridin-2-yl)-1H-pyrazole-1-carboxylate | 0.599 mmol, 350 mg | BrC1=C(SC2=NC(=CC(=C21)NS(=O)(=O)C2=CC(=CC=C2)Cl)C)C=2C=NN(C2)C(=O)OC(C)(C)C | C22H20BrClN4O4S2
reactant | 1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrrolidine | 1.2 mmol, 327 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1CCCC1)C | C16H24BNO2
reactant | potassium carbonate | 1.8 mmol, 249 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 2.5 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.03 mmol, 34.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.030 mmol, 21.04 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 1.0 mL | O | H2O
product | 3-Chloro-N-{6-methyl-2-(1H-pyrazol-4-yl)-3-[3-(1-pyrrolidinyl)phenyl]thieno[2,3-b]pyridin-4-yl}benzenesulfonamide | 20 mg | ClC=1C=C(C=CC1)S(=O)(=O)NC1=C2C(=NC(=C1)C)SC(=C2C2=CC(=CC=C2)N2CCCC2)C=2C=NNC2 | C27H24ClN5O2S2
